US04535089
50.1 g of potassium t-butoxide are dissolved in 500 ml of tetrahydrofuran, and 37.0 g of methyl α-isocyanoacetate are added dropwise thereto at -50° C. to -40° C. The mixture is stirred at the same temperature for 30 minutes. 50.0 g of n-caproyl chloride are gradually added to the mixture at -50° C. to -40° C., and the mixture is stirred at the temperature below -30° C. for 20 hours. After the reaction, the mixture is treated in the same manner as described in Preparation 1-(1). 40 g of 5-n-pentyl-4-methoxycarbonyloxazole are thereby obtained as oil. Yield: 54.3%.

reactant | potassium t-butoxide | 50.1 g | CC(C)([O-])C.[K+]
reactant | methyl α-isocyanoacetate | 37.0 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | n-caproyl chloride | 50.0 g | CCCCCC(=O)Cl | C6H11ClO
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 5-n-pentyl-4-methoxycarbonyloxazole | 40 g, Yield: 54.3% | C(CCCC)C1=C(N=CO1)C(=O)OC | C10H15NO3
